US06348474B1
Methyl 3-(2-chloro-4-(1-hexynyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate
A mixture of methyl 3-(2-chloro-4-iodobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (2.31 g), 1-hexyne (2.00 g), palladium(II) acetate (235 mg), triphenylphosphine (549 mg), copper(I) iodide (297 mg), tributylamine (2.91 g) and dimethylformamide (23 ml) was stirred under an nitrogen atmosphere at 60° C. for 1.5 hr. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1-1:2) to give the objective compound (1.44 g) as a gray powder.

reactant | methyl 3-(2-chloro-4-iodobenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 2.31 g | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)I | C16H13ClIN3O2
reactant | 1-hexyne | 2.00 g | C#CCCCC | C6H10
reactant | triphenylphosphine | 549 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tributylamine | 2.91 g | C(CCC)N(CCCC)CCCC | C12H27N
catalyst | palladium(II) acetate | 235 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper(I) iodide | 297 mg | [Cu]I
solvent | dimethylformamide | 23 ml | CN(C=O)C | C3H7NO
product | Methyl 3-(2-chloro-4-(1-hexynyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 1.44 g | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)C#CCCCC | C22H22ClN3O2
